US08735436B2
Preparation of 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaen-1-yloxy)butanoic acid
A mixture of tert-butyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaen-1-yloxy)propanoate (2.09 g, 4.58 mmol) in HCOOH (9 ml) was stirred at 40° C. under N2-atmosphere for 6 hrs. The reaction mixture was diluted with diethyl ether (100 mL), washed with water (30 mL), dried (MgSO4), filtered and evaporated under reduced pressure. Dry-flash on silica gel (50 g) eluting with toluene-toluene (85:15) yielded 1.44 g of the crude title compound. Flash chromatography on silica gel (30 g) eluting with heptane-heptane/(EtOAc w/5% HCCOH) 98:2-95:5-80:20 yielded 1.07 g (58% yield) of the title compound as a liquid. 1H NMR (200 MHz, CDCl3) δ 0.97 (t, 3H), 0.99 (t, 3H), 1.64-1.91 (m, 4H), 2.00-2.23 (m, 4H), 2.78-2.87 (m, 10H), 3.42-3.66 (m, 2H), 3.85 (dd, 1H), 5.26-5.46 (m, 12H). MS (electrospray) (neg): 399 (M−H)−.

reactant | tert-butyl 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaen-1-yloxy)propanoate | 4.58 mmol, 2.09 g | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)OC(C)(C)C)C | C29H46O3
reactant | HCOOH | 9 ml | C(=O)O | CH2O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-((4Z,7Z,10Z,13Z,16Z,19Z)-docosa-4,7,10,13,16,19-hexaen-1-yloxy)butanoic acid | 1.07 g, 58% yield | C(CC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)O)CC | C26H40O3
